US06229011B1
N-[(2-Chloro-6-methylphenyl)carbonyl]-4-nitro-L-phenylalanine methyl ester (1.51 g, 4.0 mmol) and SnCl2.H2O (4.5 g, 20 mmol) were suspended in 30 mL of ethanol. The suspension was stirred at a bath temperature of 97° C. for 1 hr. After it was cooled to room temperature, the solvent was evaporated and the residue was dissolved in 15 mL of water. The aqueous solution was then made alkaline by addition of solid K2CO3 to pH>10 and was extracted with ethyl acetate (3×100 mL). The combined extracts were dried over K2CO3 and were concentrated to give 4-amino-N-(2-chloro-6-methylbenzoyl)-L-phenylalanine methyl ester as a light yellow foam (1.37 g).

reactant | N-[(2-Chloro-6-methylphenyl)carbonyl]-4-nitro-L-phenylalanine methyl ester | 4.0 mmol, 1.51 g | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17ClN2O5
reactant | SnCl2.H2O | 20 mmol, 4.5 g | Cl[Sn]Cl.O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-amino-N-(2-chloro-6-methylbenzoyl)-L-phenylalanine methyl ester | 1.37 g | COC([C@@H](NC(C1=C(C=CC=C1C)Cl)=O)CC1=CC=C(C=C1)N)=O | C18H19ClN2O3
